US05834454
A mixture of ethyl 1-(3-ethoxycarboxypropyl)-4-methyl-1H-indole-2-carboxylate (15.4 g, 48.5 mmol), acetic acid (250 ml) and 30% sulfuric acid (125 ml) was stirred at 70°-75° C. for 1.5 hours. The reaction mixture was cooled to room temperature and then poured into ice water, followed by extraction with ethyl acetate (twice). Subsequently, the organic layer was extracted with aqueous ammonia (prepared from 130 ml of 28% aqueous ammonia and 100 ml of water), and the aqueous layer thus obtained was adjusted to pH 3 to 4 with 35% hydrochloric acid. The solid precipitated was collected by filtration, washed with water and then dried under reduced pressure to obtain 9.2 g of ethyl 1-(3-carboxypropyl)-4-methyl-1H-indole-2-carboxylate.

reactant | ethyl 1-(3-ethoxycarboxypropyl)-4-methyl-1H-indole-2-carboxylate | 48.5 mmol, 15.4 g | C(C)OC(CCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC)C(=O)O | C18H23NO5
reactant | sulfuric acid | 125 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | ethyl 1-(3-carboxypropyl)-4-methyl-1H-indole-2-carboxylate | 9.2 g | C(=O)(O)CCCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C16H19NO4
